US04550205
Preparation of 3-[N-{2-nitro-5-(2,4-dichlorophenoxy)phenyl}amino]propionic acid.
Amounts of 8.90 g of 2,4-bis(2,4-dichlorophenoxy)nitrobenzene, 5.35 g of β-alanine and 11.06 g of K2CO3 were added to 50 ml acetonitrile. The reaction mixture was refluxed for 5 days. After evaporating the solvent the residue was stirred with 150 ml of water and 100 ml of diethylether for 1 hour. The water phase was acidified with conc. hydrochloric acid and extracted with methylene chloride. After drying and evaporating the solvent the organic layer yielded the desired product as a yellow crystalline material; melting-point 115° C.; yield 2.64 g.

reactant | 2,4-bis(2,4-dichlorophenoxy)nitrobenzene | 8.90 g | ClC1=C(OC2=C(C=CC(=C2)OC2=C(C=C(C=C2)Cl)Cl)[N+](=O)[O-])C=CC(=C1)Cl | C18H9Cl4NO4
reactant | β-alanine | 5.35 g | NCCC(=O)O | C3H7NO2
reactant | K2CO3 | 11.06 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 3-[N-{2-nitro-5-(2,4-dichlorophenoxy)phenyl}amino]propionic acid | [N+](=O)([O-])C1=C(C=C(C=C1)OC1=C(C=C(C=C1)Cl)Cl)NCCC(=O)O | C15H12Cl2N2O5
